"N18noise"
.source V1
.detector V_out
.lib C18.lib
.param W=220n L={W} ID=1u IG=0
V1 1 0 V value=0 noise=0 dc=0 dcvar=0
X1 1 0 out NM18_noise ID={ID} IG={IG} W={W} L={L}
.end